US07041687B2
4-tert-Butylcarbonylamino-2-(3-chloro-2,6-difluorophenyl)-butyric acid:
4-Amino-2-(3-chloro-2,6-difluorophenyl)-butyric acid methyl ester hydrochloride (685 mg, 2.28 mmol) was dissolved in 8M hydrochloric acid solution (10 mL) and the mixture heated at reflux overnight. The mixture was allowed to cool to room temperature, then concentrated. The residue was dissolved in a solution of sodium bicarbonate (1.2 g, 11.4 mmol) in water (15 mL) and THF added (15 mL). The mixture was cooled to 0° C. and di-tert-butyldicarbonate (648 mg, 2.97 mmol) was added. The reaction mixture was allowed to warm to room temperature and stirred for 5.5 hours, then concentrated. After dilution with water, the mixture was extracted with ether, then the aqueous phase acidified to pH 4.5 using 2M HCl. The acidified aqueous phase was extracted with EtOAc (×3) and the combined extracts dried (magnesium sulfate) and concentrated. The residue was purified by chromatography (silica, 5% MeOH-DCM) to afford the title compound as a wax (512 mg, 65% two steps); MS (ES−) m/e=348.

reactant | 4-Amino-2-(3-chloro-2,6-difluorophenyl)-butyric acid methyl ester hydrochloride | 2.28 mmol, 685 mg | Cl.COC(C(CCN)C1=C(C(=CC=C1F)Cl)F)=O
reactant | sodium bicarbonate | 11.4 mmol, 1.2 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyldicarbonate | 2.97 mmol, 648 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | hydrochloric acid | 8M, 10 mL | Cl | ClH
solvent | water | 15 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 4-tert-Butylcarbonylamino-2-(3-chloro-2,6-difluorophenyl)-butyric acid | C(C)(C)(C)C(=O)NCCC(C(=O)O)C1=C(C(=CC=C1F)Cl)F | C15H18ClF2NO3
